US07157487B2
(Step 2) Synthesis of diethyl 3-benzyloxy-4-nitrophenylmalonate
In DMF (100 ml) was suspended sodium hydride (4.63 g, 115.7 mmol). Under cooling at 0° C. and stirring, diethyl malonate (18.5 g, 115.7 mmol) was added dropwise. After vigorous evolution of a hydrogen gas stopped, a solution of benzyl 5-fluoro-2-nitrophenyl ether (14.3 g, 57.8 mmol) in DMF (100 ml) was added to the reaction mixture at 0° C. The reaction mixture was stirred for 15 hours at room temperature. Water (500 ml) was poured and the mixture was extracted with ethyl acetate (300 ml). The extract was washed with saturated brine (200 ml), dried over anhydrous magnesium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby from hexane-ethyl acetate (3:1) eluate fractions, the title compound (22.0 g, 100%) was obtained as a yellow oil.

reactant | sodium hydride | 115.7 mmol, 4.63 g | [H-].[Na+]
reactant | diethyl malonate | 115.7 mmol, 18.5 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | hydrogen | [H][H] | H2
reactant | benzyl 5-fluoro-2-nitrophenyl ether | 57.8 mmol, 14.3 g | FC=1C=CC(=C(C1)OCC1=CC=CC=C1)[N+](=O)[O-] | C13H10FNO3
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | Water | 500 ml | O | H2O
product | diethyl 3-benzyloxy-4-nitrophenylmalonate | 22.0 g, 100% | C(C1=CC=CC=C1)OC=1C=C(C=CC1[N+](=O)[O-])C(C(=O)OCC)C(=O)OCC | C20H21NO7
